US08114868B2
A mixture of (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-1,3-oxazinan-2-one (640 mg, 1.42 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (470 mg, 1.85 mmol), PdCl2dppf (40 mg, 0.047 mmol, KOAc (490 mg, 4.97 mmol) in DMSO (8 mL) was heated at 90° C. for 20 h. The mixture was diluted with EtOAc, and washed with water. The organic phase was separated, and concentrated to give the crude product, which was purified by preparative TLC to afford (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (700 mg, 99%). 1H NMR (CDCl3): δ=1.08 (s, 3H), 1.13 (s, 3H), 1.32 (s, 12H), 1.51 (t, 3H), 1.94 (m, 2H), 2.16 (m, 5H), 2.33 (m, 1H), 2.83 (m, 1H), 5.69 (m, 1H), 6.99 (m, 4H), 7.25 (m, 2H), 7.61 (m, 2H).

reactant | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-1,3-oxazinan-2-one | 1.42 mmol, 640 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CC(C)(C)O)C1=CC=C(C=C1)F)=O | C22H25BrFNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.85 mmol, 470 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 4.97 mmol, 490 mg | CC(=O)[O-].[K+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 700 mg, 99% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C)(C)O | C28H37BFNO5
